US04239759
2.26 g of 3-p-biphenylylbutan-1-ol are dissolved in 10 ml of isopropylamine and, after adding 0.5 g of Raney nickel, the solution is shaken for 15 hours at 160° in a tube. After cooling, filtering off the catalyst and evaporating, 1-isopropylamino-3-p-biphenylyl-butane is obtained.

reactant | 3-p-biphenylylbutan-1-ol | 2.26 g | C1(=C(C=CC=C1)C(CCO)C)C1=CC=CC=C1 | C16H18O
reactant | isopropylamine | 10 ml | C(C)(C)N | C3H9N
catalyst | Raney nickel | 0.5 g | [Ni] | Ni
product | 1-isopropylamino-3-p-biphenylyl-butane | C(C)(C)NCCC(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C19H25N
